US04203987
2,3,4,4a-Tetrahydro-3-[2-(4-Piperidinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 2,3,4,4a-tetrahydro-3-[2-(4-pyridinyl)ethyl]-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one in 120 ml. water and 60 ml. ethanol containing 13 ml. conc. hydrochloric acid was placed in a Parr hydrogenation apparatus, with 1.2 g. PtO2, under 45 psi. of hydrogen and shaken till pressure drop ceased. After filtering off catalyst the solvents were removed under vacuum and the residue crystallized from hot ethanol. Product filtered off, washed (ethanol), and dried. Dissolved in hot methanol which was displaced by ethanol by boiling off lower boiling solvent. Yield: 4.0 g. of the title compound as the dihydrochloride salt, m.p. 238°-240° C.

reactant | 2,3,4,4a-tetrahydro-3-[2-(4-pyridinyl)ethyl]-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | N1=CC=C(C=C1)CCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C18H20N4O
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | O=[Pt]=O
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | 2,3,4,4a-Tetrahydro-3-[2-(4-Piperidinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1CCC(CC1)CCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C18H26N4O
